US05955607
b) 6-Benzyloxy-2,2-dimethylchroman-4-one
25.2 g (131.2 mmol) of 6-hydroxy-2,2-dimethylchroman-4-one were introduced into 350 ml of diethyl ketone with stirring at RT and, after addition of 18.0 g (131 mmol) of powdered potassium carbonate, the mixture was stirred at 75° C. for 30 min. After cooling to 60° C., 15.7 ml (131 mmol) of benzyl bromide were added dropwise, and after 2 h the mixture was concentrated in vacuo, the residue was treated with water and the solid was filtered off with suction, 37 g, m.p. 105-107° C.

reactant | 6-hydroxy-2,2-dimethylchroman-4-one | 131.2 mmol, 25.2 g | OC=1C=C2C(CC(OC2=CC1)(C)C)=O | C11H12O3
reactant | potassium carbonate | 131 mmol, 18.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 131 mmol, 15.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | diethyl ketone | 350 ml | C(C)C(=O)CC | C5H10O
product | 6-Benzyloxy-2,2-dimethylchroman-4-one | C(C1=CC=CC=C1)OC=1C=C2C(CC(OC2=CC1)(C)C)=O | C18H18O3
